US07662825B2
N-[5-Bromo-3-(5-pyrimidinylmethoxy)-2-pyrazinyl]-2,3-dichlorobenzenesulphonamide
Prepared by the method of Example 31 using pyrimidine-5-methanol (0.035 g) and 2,3-dichloro-N-(3,5-dibromo-2-pyrazinyl)benzenesulphonamide (0.16 g). Yield 0.028 g.

reactant | pyrimidine-5-methanol | 0.035 g | N1=CN=CC(=C1)CO | C5H6N2O
reactant | 2,3-dichloro-N-(3,5-dibromo-2-pyrazinyl)benzenesulphonamide | 0.16 g | ClC1=C(C=CC=C1Cl)S(=O)(=O)NC1=NC=C(N=C1Br)Br | C10H5Br2Cl2N3O2S
product | N-[5-Bromo-3-(5-pyrimidinylmethoxy)-2-pyrazinyl]-2,3-dichlorobenzenesulphonamide | BrC=1N=C(C(=NC1)NS(=O)(=O)C1=C(C(=CC=C1)Cl)Cl)OCC=1C=NC=NC1 | C15H10BrCl2N5O3S
